US07253286B2
N-(4-(6-Aminopyrimidin-4-yloxy)phenyl)-N′-(3-methanesulfonylphenyl)urea
6-(4-Aminophenoxy)pyrimidin-4-ylamine (88.9 mg, 0.440 mmol) and (3-methylsulfonylphenyl)carbamic acid phenyl ester (128 mg, 0.440 mmol) were stirred in dimethylsulfoxide (2 ml) at 85° C. for18 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=30:1), the fraction containing the target substance was concentrated and suspended in ethyl acetate, the suspension was diluted with hexane and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (75.0 mg, 0.188 mmol, 43%) as colorless crystals.

reactant | 6-(4-Aminophenoxy)pyrimidin-4-ylamine | 0.440 mmol, 88.9 mg | NC1=CC=C(OC2=CC(=NC=N2)N)C=C1 | C10H10N4O
reactant | (3-methylsulfonylphenyl)carbamic acid phenyl ester | 0.440 mmol, 128 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC=C1)S(=O)(=O)C)=O | C14H13NO4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | N-(4-(6-Aminopyrimidin-4-yloxy)phenyl)-N′-(3-methanesulfonylphenyl)urea | 0.188 mmol, 75.0 mg, 43% | NC1=CC(=NC=N1)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)S(=O)(=O)C | C18H17N5O4S
